US04997840
A mixture of 3-hydroxy-1-methyl-7-(2,2,2-trifluoroethoxy)-4-quinolone (0.40 g), aqueous sodium hydroxide (5M, 0.43 ml) and water (10 ml) was stirred under nitrogen at 0°. Methanesulphonyl chloride (0.25 g) was added with stirring and the pH adjusted to 9 with aqueous sodium hydroxide (5M, 0.5 ml). The resultant solid was collected by filtration, washed with water (10 ml) and crystallised from industrial methylated spirit (10 ml) to give the novel compound 1-methyl-4-oxo-7-(2,2,2-trifluoroethoxy)-1,4-dihydro-quinol-3-yl methanesulphonate, m.p. 110°-112°.

reactant | 3-hydroxy-1-methyl-7-(2,2,2-trifluoroethoxy)-4-quinolone | 0.40 g | OC1=CN(C2=CC(=CC=C2C1=O)OCC(F)(F)F)C | C12H10F3NO3
reactant | sodium hydroxide | 5M, 0.43 ml | [OH-].[Na+]
reactant | Methanesulphonyl chloride | 0.25 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydroxide | 5M, 0.5 ml | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | 1-methyl-4-oxo-7-(2,2,2-trifluoroethoxy)-1,4-dihydro-quinol-3-yl methanesulphonate | CS(=O)(=O)OC1=CN(C2=CC(=CC=C2C1=O)OCC(F)(F)F)C | C13H12F3NO5S
